US08138178B2
A mixture of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (0.4910 g, 1.17 mmol, 1.0 equiv), bis(pinacolato)diboron (0.3925 g, 1.55 mmol, 1.3 equiv), KOAc (0.3696 g, 3.76 mmol, 3.2 equiv), and PdCl2(dppf).CH2Cl2 (0.0316 g, 0.0386 mmol, 0.033 equiv) in DMSO (6 mL) was heated at 90° C. under N2 for 20 h. After cooling, the reaction mixture was partitioned between EtOAc and water. The organic phase was washed with brine, and dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to give 0.4776 g (87%) of (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one as a white solid.

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 1.17 mmol, 0.4910 g, 1.0 equiv | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)F | C21H21BrFNO2
reactant | bis(pinacolato)diboron | 1.55 mmol, 0.3925 g, 1.3 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.76 mmol, 0.3696 g, 3.2 equiv | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 0.0386 mmol, 0.0316 g, 0.033 equiv | C(Cl)Cl | CH2Cl2
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.4776 g, 87% | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)F | C27H33BFNO4
